Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
NSAIDS, ASA, statins
 
Attending: ___.
 
Chief Complaint:
s/p cardiac arrest
 
Major Surgical or Invasive Procedure:
___: RHC 
 
History of Present Illness:
___ y/o F with h/o severe aortic stenosis, ESRD on HD, paroxysmal 
atrial fibrillation, and PPM for LBBB/syncope presents following 
acute LOC while at HD with pulselessness. Patient underwent 
___ minutes of CPR (no epi or defibrillation per ED report) 
before ROSC was achieved. Initial rhythm during the event is 
unclear. Of note, she was in dialysis for 1 hour and only 140 cc 
were removed prior to event. Patient was subsequently 
transferred to ___ where she was started on heparin gtt 
for possible NSTEMI given ST depressions on EKG and initial 
troponin of 0.08. While at A-J, SBP dropped to 35 and patient 
went into rapid atrial fibrillation. 12-lead EKG showed a left 
bundle branch block, which she is known to have and occurs 
intermittently. Patient was subsequently cardioverted and 
received 2 L NS and IV digoxin, prior to returning to NSR
 
At A-J, she underwent CT angiogram which did not show aortic 
dissection or pulmonary embolus. Patient was awake and talking 
and denied CP or SOB, though she endorsed significant ongoing 
back pain, which has been a chronic issue. BP subsequently 
improved with initiation of Levophed. Cardiology was consulted 
due to concern for posterior STEMI given EKG findings; posterior 
MI was felt to be unlikely and ischemic findings were thought to 
be ___ hypotension and severe AS. She was subsequently 
transferred to ___ for CVVHD and further management.  

REVIEW OF SYSTEMS:  She endorses back pain. She endorses dyspnea 
on exertion prior to HD sessions, which is relieved following 
HD. Otherwise review of systems was negative.

In the ED initial vitals were:  
HR 82 BP 84/42 RR21 95% Nasal Cannula 
Labs/studies notable for: BNP >32000, Troponin 0.74, MB 136, WBC 
18.9, H/H ___, Lactate 2.8, Cr 6.6, ALT 64, AST 119
CXR with marked enlargement of the central pulmonary vasculature 
suggesting severe pulmonary edema, underlying pulmonary 
hemorrhage/contusion not excluded. Small pleural effusions. 
Moderate to marked enlargement of the cardiac silhouette. 
Multiple bilateral rib fractures. No radiographic evidence of 
pneumothorax, but a small pneumothorax would be difficult to 
exclude.     
Patient was started on heparin gtt, levophed gtt, dilaudid IV 
0.125 mg x 5 doses
 
Past Medical History:
1. CARDIAC RISK FACTORS 
-ESRD on the basis of hypertension, on hemodialysis with R AV 
fistula  
-Hypertension
-Severe aortic stenosis, ___ 0.8. Declined TAVR due to age and 
co-morbidities, though unclear if discussion was fully 
addressed/understood
-Mixed systolic/diastolic HF
-Pacemaker (left-sided, single chamber) placed for syncope ___ 
transient heart block (has intermittent left bundle branch 
block)
-Dyslipidemia.
-Nonobstructive coronary artery disease.
-Hypothyroidism.
-Anemia of renal disease.
-Venous insufficiency.
-COPD, on home ___ L
-Chronic upper back pain for which she takes methadone.
-Left humerus fracture ___ after falling.
-Bilateral fibular fractures in ___.
-Right carpal tunnel syndrome.
-Carotid stenosis.
-Bradycardia.

 
Social History:
___
Family History:
Father had died of an MI at age ___.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VITALS: 97.5 93 139/79 19 96%
GENERAL APPEARANCE: Elderly woman, AAOx3, pleasant
HEENT: Neck supple. PERRLA. JVP is distended to mid-neck.
LUNGS: Bibasilar crackles with diffuse wheezing
CARDIAC: Heart sounds faint, ___ crescendo-descrendo systolic 
murmur at LUSB.
ABDOMEN:  Soft, nontender, and nondistended.
EXTREMITIES: 1+ pitting edema. RLE > LLE (chronic) without 
erythema or tenderness. Distal extremities cool to touch. Patent 
right upper extremity AV fistula. 
NEUROLOGIC: Purposely moving all extremities and following 
commands.

DISCHARGE PHYSICAL EXAM
=======================
Patient died. 
 
Pertinent Results:
ADMISSION LABS
==============

___ 05:30PM BLOOD WBC-18.9*# RBC-3.43* Hgb-11.0* Hct-36.2 
MCV-106* MCH-32.1* MCHC-30.4* RDW-13.9 RDWSD-53.3* Plt ___
___ 05:30PM BLOOD ___ PTT-84.2* ___
___ 05:30PM BLOOD Plt ___
___ 05:30PM BLOOD Glucose-215* UreaN-49* Creat-6.6*# Na-140 
K-4.3 Cl-96 HCO3-24 AnGap-24*
___ 05:30PM BLOOD ALT-64* AST-119* AlkPhos-75 TotBili-0.5
___ 11:58PM BLOOD CK(CPK)-3034*
___ 05:30PM BLOOD CK-MB-136* ___
___ 05:30PM BLOOD cTropnT-0.74*
___ 05:30PM BLOOD Albumin-3.4*
___ 11:58PM BLOOD TSH-6.6*
___ 11:58PM BLOOD T4-5.2
___ 05:30PM BLOOD Lactate-2.8*

IMAGING
=======

CATH:
Impressions:
1. Moderate three vessel CAD.
2. Preserved cardiac ouput.
3. Elevated left sided filling pressure with prominent V waves.

ECHO:
The left atrium is moderately dilated. There is moderate 
symmetric left ventricular hypertrophy. Overall left ventricular 
systolic function is severely depressed (LVEF = 25%) secondary 
to akinesis of the inferior wall, hypokinesis of the posterior 
wall, and pacing-induced dyssynchrony. Tissue Doppler imaging 
suggests an increased left ventricular filling pressure 
(PCWP>18mmHg). Doppler parameters are most consistent with Grade 
III/IV (severe) left ventricular diastolic dysfunction. The 
right ventricular free wall thickness is normal. Right 
ventricular chamber size is normal with borderline normal free 
wall function. The aortic valve is not well seen. There is 
severe aortic valve stenosis (valve area = 0.5 cm2). No aortic 
regurgitation is seen. The mitral valve leaflets are severely 
thickened/deformed. There is severe mitral annular 
calcification. There is mild functional mitral stenosis (mean 
gradient 5 mmHg) due to mitral annular calcification. Severe 
(4+) mitral regurgitation is seen. The tricuspid valve leaflets 
are mildly thickened. Moderate [2+] tricuspid regurgitation is 
seen. [Due to acoustic shadowing, the severity of tricuspid 
regurgitation may be significantly UNDERestimated.] There is 
moderate pulmonary artery systolic hypertension. There is no 
pericardial effusion. 

DISCHARGE LABS:
Patient died. 
 
Brief Hospital Course:
___ y/o F with h/o severe aortic stenosis, ESRD on HD, paroxysmal 
atrial fibrillation, and PPM for LBBB/syncope who presents 
following cardiac arrest, transferred to ___ for further 
management of hypotension associated with HD sessions and for 
post cardiac arrest care.

#Goals of care. Given worsening clinical condition over the 
course of the hospital stay and inability to tolerate HD with 
necessity of pressors, discussions about patient’s outcome were 
ongoing with her daughter/HCP ___. Confirmed with daughter 
that quality of life is of great importance to the patient. 
Patient was eventually on higher O2 requirements, two pressors, 
and became increasingly somnolent. Patient's daughter agreed 
that they should focus on her comfort. She was transitioned to 
CMO on ___ and died later in the day on ___. For 
hospital course by problem see below.

#s/p cardiac arrest
#Elevated lactate
#Leukocytosis: Patient transferred to ___ after pulselessness, 
requiring ___ minutes of CPR before achieving ROSC. Etiology 
of arrest remained unclear. Most likely I/s/o low flow state due 
to hypotension during HD and severe AS ___ 0.8 in ___. 
Etiology unlikely to be ___ arrhythmia (PPM interrogation with 
longest AF episode to be 5 seconds). CTA negative for PE. 

#Hypotension. was likely multifactorial, related to severe AS, 
MR, and Afib iso moderate to diffuse CAD. Patient was difficult 
to wean from pressors, and difficult to manage AS, MR, and Afib 
effectively given that patient is not candidate for CABG.  
Pressor requirement increased over course and included midodrine 
10mg TID.

#NSTEMI: OSH EKG with ST depressions prominent in V2-V4, with 
elevated troponins to 0.08, in the setting of pulseless arrest, 
concerning for likely type II NSTEMI in the setting of low flow 
state from severe AS and hypotension with HD. Trop peaked at 
7.31 and MB peaked at 506.  TTE shows preserved LVEF >55%, 
similar severe AS, new severe MR, elevated pulmonary/right sided 
pressures. Cath ___ showed moderate to diffuse dz, non-critical 
lesions.

#Severe AS: AS likely contributing to pulselessness and LOC. TTE 
in ___ with ___ 0.8 and elevated peak velocity/peak 
gradient. She had RHC in preparation for TAVR, but patient 
decompensated. See above. 
                                                                 
                    
#Paroxysmal Atrial Fibrillation: s/p cardioversion prior to 
admission. Onset noted in ___ in the setting of PNA, for 
which she was started on Metoprolol succinate 25 mg daily. 
CHA2DS2-VASc 5. Anticoagulation was deferred during previous 
admission after risks/benefits discussion. She was placed on AC 
here and was loaded with amio and digoxin with some benefit.

#Mixed systolic, diastolic HF: LVEF 45-50% on TTE in ___. 
BNP elevated to 32,000. Pt tried to have HD as above for fluid 
removal and did not tolerate as above.

#Positive blood cultures: Pt w/ ___ bottles growing GPC in pairs 
and clusters. Afebrile, but w/slight leukocytosis. ___ blood 
cx- ___ coag-neg Staph<10,000, and started empiric vanc ___ and 
removed femoral line and replaced w/IJ. Repeat cx- NGTD >48hrs 
and empiric vanc was discontinued.

CHRONIC ISSUES
=============
#COPD on home O2 (2L): Not on any inhalers per patient. Continue 
2L O2. Continued on nebulizer treatment.

#GERD: Continued omeprazole.

#Chronic Back Pain: Continued gabapentin and methadone

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Gabapentin 300 mg PO DAILY 
2. Incruse Ellipta (umeclidinium) 62.5 mcg/actuation inhalation 
PRN 
3. Levothyroxine Sodium 100 mcg PO DAILY 
4. Methadone 30 mg PO DAILY 
5. Omeprazole 40 mg PO DAILY 
6. Nephrocaps 1 CAP PO DAILY 
7. Rosuvastatin Calcium 20 mg PO 5X/WEEK (___) 
8. Metoprolol Succinate XL 25 mg PO DAILY 

 
Discharge Medications:
Patient deceased
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Aortic stenosis
Congestive heart failure
s/p cardiac arrest
hypotension
atrial fibrillation with rapid ventricular response
transiminitis
end stage renal disease on hemodialysis
rib fractures

SECONADRY DIAGNOSIS
Chronic obstructive pulmonary disease
gastroesophageal reflux disease
chronic back pain
hypothyroidism

 
Discharge Condition:
deceased
 
Discharge Instructions:
N/a deceased
 
Followup Instructions:
___